US08633207B2
To 8-cyclopropyl-2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline (150 mg, 0.41 mmol) in DCM (5 mL) cooled to 0° C. was added 3-chloroperbenzoic acid (70%, 42 mg, 0.17 mmol) and the mixture stirred for 15 min. The mixture was diluted with DCM and then a sodium thiosulfate solution, followed by a saturated sodium bicarbonate solution was added. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. To the obtained residue was added THF (4 mL) and 5-methyl-1H-pyrazol-3-amine (185 mg, 1.9 mmol) and the mixture stirred at rt for 30 min. The crude mixture was concentrated under reduced pressure and then purified by preparative HPLC (Varian C-18 reverse phase column, eluted with gradient of solvent B=0.05% formic acid/ACN and solvent A=5% ACN/0.05% formic acid/H2O) to afford 8-cyclopropyl-2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazolin-4-ol (50 mg, 37%). LC-MS (ESI) m/z 332 (M+H)+.

reactant | 8-cyclopropyl-2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline | 0.41 mmol, 150 mg | C1(CC1)C=1C=CC=C2C(=NC(=NC12)C(C1=NC=C(C=C1)F)(F)F)SC | C18H14F3N3S
reactant | 3-chloroperbenzoic acid | 0.17 mmol, 42 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 5-methyl-1H-pyrazol-3-amine | 1.9 mmol, 185 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 8-cyclopropyl-2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazolin-4-ol | 50 mg, 37% | C1(CC1)C=1C=CC=C2C(=NC(=NC12)C(C1=NC=C(C=C1)F)(F)F)O | C17H12F3N3O
